* C:\Users\jerem\Data\Cambridge\Lab Books\Part IIA\SF4\SF4-Data-Logger\hardware\simulation\instrumentation amplifier.asc
V1 0 -5V 5
R1 N003 N002 2.7k
R2 N002 N001 8.2k
R3 N013 N009 8.2k
R§22k N004 N003 22k
R5 N011 N013 2.7k
R6 N015 N011 22k
R10 N006 N004 1000k
R11 N012 N006 1000k
R12 N010 N007 470k
R13 N015 N010 1000k
C1 N007 N006 2.2n
C2 N015 N012 2.2n
R4 N005 N014 1k
R14 N005 N008 2.7k
V2 N008 N014 SINE(0 0.08 20)
R9 N001 N009 2.5k
V3 +5V 0 5
R7 +5V N016 22k
R8 N016 0 22k
XU1 N012 N010 +5V 0 N007 OP191
XU2 N011 N003 +5V 0 N004 OP191
XU3 N005 N001 +5V 0 N002 OP191
XU4 N014 N009 +5V 0 N013 OP191
XU5 N016 N015 +5V 0 N015 OP191
.tran 0.07
.lib ADI.lib
.backanno
.end
